US07183445B2
Into a mixture of trifluoro-methanesulfonic acid 4-ethylperoxymethyl-5-methyl-6-[4-(2-piperidin-1-yl-ethoxy)-benzyl]-cyclohexa-1,5-dienyl ester (118.5 mg, 0.2219 mmol), Pd (PPh3)4 (6.4 mg, 0.025 eq.) and K3PO4 (70.7 mg, 1.5 eq.) in 1,4-dioxane (5 mL) was bubbled N2 for 10 min. To the reaction mixture was then added 4-methoxy benzene boronic acid (37.1 mg, 0.2441 mmol). The resulting mixture was heated to 8° C. for 16 h, filtered through a plug of silica gel, concentrated and purified on preparative TLC (10% MeOH/DCM) to yield 4-(4-methoxy-phenyl)-6-methyl-5-[4-(2-piperidin-1-yl-ethoxy)-benzyl]-cyclohex-3-enecarboxylic acid ethyl ester as light yellow oil.

reactant | trifluoro-methanesulfonic acid 4-ethylperoxymethyl-5-methyl-6-[4-(2-piperidin-1-yl-ethoxy)-benzyl]-cyclohexa-1,5-dienyl ester | 0.2219 mmol, 118.5 mg | C(C)OOCC1CC=C(C(=C1C)CC1=CC=C(C=C1)OCCN1CCCCC1)OS(=O)(=O)C(F)(F)F | C25H34F3NO6S
reactant | K3PO4 | 70.7 mg, 1.5 eq. | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 4-methoxy benzene boronic acid | 0.2441 mmol, 37.1 mg | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | Pd (PPh3)4 | 6.4 mg, 0.025 eq. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(4-methoxy-phenyl)-6-methyl-5-[4-(2-piperidin-1-yl-ethoxy)-benzyl]-cyclohex-3-enecarboxylic acid ethyl ester | C(C)OC(=O)C1CC=C(C(C1C)CC1=CC=C(C=C1)OCCN1CCCCC1)C1=CC=C(C=C1)OC | C31H41NO4
